US05530138
N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]-4-nitroaniline
The procedures described in Example 12 were repeated except that 1-chloro-4-nitrobenzene (2 04 g, 12.9 mmol) and 5-(2-aminoethyl)-1 -azabicyclo[3.3.0]octane (4.00 g, 25.9 mmol) were employed. In this case, the desired compound was obtained as a yellow liquid (2.93 g, 8 2.5%).

reactant | 1-chloro-4-nitrobenzene | 12.9 mmol | ClC1=CC=C(C=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | 5-(2-aminoethyl)-1 -azabicyclo[3.3.0]octane | 25.9 mmol, 4.00 g | NCCC12CCCN2CCC1 | C9H18N2
product | N-[2-(1-Azabicyclo[3.3.0]octan-5-yl)ethyl]-4-nitroaniline | N12CCCC2(CCC1)CCNC1=CC=C(C=C1)[N+](=O)[O-] | C15H21N3O2
